US05552409
a. 3-(4-chlorocinnamoyl)-propionic acid
To a dry 250 ml flask equipped with a magnetic stirrer, Dean-Stark trap, and reflux condenser was charged 15 g of 4-chlorobenzaldehyde, 12.4 g levulenic acid, 5.7 ml of piperidine, and 100 ml of toluene. The reaction was refluxed for 3 hours, after which no water was observed to azeotrope from the solution. The reaction was cooled and stripped to yield a reddish-brown liquid which was triturated with hexane to yield 11.2 g of product as a yellow solid.

reactant | 4-chlorobenzaldehyde | 15 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | levulenic acid | 12.4 g | C(CCC(=O)C)(=O)O | C5H8O3
reactant | piperidine | 5.7 ml | N1CCCCC1 | C5H11N
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 3-(4-chlorocinnamoyl)-propionic acid | 11.2 g | ClC1=CC=C(C=CC(=O)CCC(=O)O)C=C1 | C12H11ClO3
